US07173058B2
To a solution of 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester (490 mg, 1.5 mmol) and triethyl amine (0.43 ml, 3.1 mmol) in DMF (10 ml) was added 2-bromomethyl-6-nitro-benzoic acid ethyl ester (460 mg, 1.6 mmol). The mixture was heated at 90° C. under nitrogen atmosphere overnight. The solvent was removed in vacuo. The resulted oil was extracted with ethyl acetate (50 ml) and 1N HCl (50ml). The organic layer was washed with water (30 ml), brine (30 ml) and dried over magnesium sulfate. The solvent was removed in vacuo and the resulted oil was purified by silica gel chromatography (hexane: ethyl acetate=2:1) to give 3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester as a yellowish solid (550 mg, 75%). 1HNMR (CDCl3): δ 0.31–0.37 (m, 2H), 0.59–0.67 (m, 2H), 1.22–1.28 (m, 1H), 3.09 (dd, J=7, 15 Hz, 1H), 3.28 (dd, J=9, 15 Hz, 1H), 3.65 (s, 3H), 3.79–3.91 (m, 2H), 4.18 (d, J=17 Hz, 1H), 4.46 (d, J=17 Hz, 1H), 5.83 (dd, J=7, 9 Hz, 1H), 6.61 (t, JH-F=75 Hz, 1H), 7.04–7.05 (m, 3H), 7.58–7.76 (m, 3H).

reactant | 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester | 1.5 mmol, 490 mg | COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)N)=O | C15H19F2NO4
reactant | triethyl amine | 3.1 mmol, 0.43 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromomethyl-6-nitro-benzoic acid ethyl ester | 1.6 mmol, 460 mg | C(C)OC(C1=C(C=CC=C1[N+](=O)[O-])CBr)=O | C10H10BrNO4
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-3-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester | 550 mg, 75% | COC(CC(N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O | C23H22F2N2O7
